Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
___ Complaint:
intoxication 
 
Major Surgical or Invasive Procedure:
___ Intubation 
___ Extubation 

 
History of Present Illness:
Mr. ___ is a ___ year-old male with unknown past medical 
history who initially presented to ___ after being found 
intoxicated in the back of a car. 

Per report, patient was moving all extremities on arrival to 
___ but was intubated for airway protection. He had a CT 
head that was notable for possible chronic subdural hematoma, 
which prompted transfer to ___ for neurosurgical evaluation. 
Prior to transfer, labs at ___ were notable for EtOH level > 
600.

In the ___ ED, initial vitals: 97.4 70 90/57 22 96% Intubation 


Exam notable for:
- General: Intubated/sedated
- Pulmonary: Bilateral breath sounds
- Extremities: Without injury

Labs notable for:
- WBC 3.6, Hgb 12.4
- Chem 10 unremarkable
- ABG 7.33/47/70, lactate 2.0 
- trop < 0.01
- Serum EtOH 452 (otherwise negative)
- Urine tox + benzos (otherwise negative)
- UA negative

Imaging notable for: 
- ___ CT head w/o contrast (___)
Reportedly with possible chronic subdural hematoma

- ___ CT C-spine (___)
Reportedly without acute C-spine fracture

- ___ CXR
Per my read, ETT appears high, likely needs to be advanced 1cm. 
No acute cardiopulmonary process. 

Consult:
- Neurosurgery: Findings of CT head reviewed with on-call 
attending, right frontal finding felt to be artifact. No bleed. 
No neurosurgical intervention or further head imaging required. 
Neurosurgery signing off.

Patient received: 
- 2L NS
- Fentanyl gtt, midazolam gtt

Upon arrival to the ___, patient is intubated/sedated and 
unable to participate in an interview. 

ROS: Unable to obtain
 
Past Medical History:
Alcohol Misuse Disorder
Alcoholic hepatitis
 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION EXAM
VS: Afebrile 100/62 68 22 96% on ventilator
GEN: Intubated/sedated
HEENT: NC/AT, EOMI, PERRL
CV: RRR, normal S1/S2, no m/r/g
RESP: CTAB, breathing comfortably on vent
GI: Soft, nontender, nondistended, active bowel sounds
EXT: No c/c/e
SKIN: Warm, well-perfused
NEURO: Sedated, not following commands

DISCHARGE EXAM
VS: reviewed on Metavision 
GEN: extubated, diaphoretic, 
HEENT: NC/AT, EOMI, PERRL
CV: RRR, normal S1/S2, no m/r/g
RESP: CTAB, breathing comfortably on vent
GI: Soft, nontender, nondistended, active bowel sounds
EXT: No c/c/e
SKIN: Warm, well-perfused
NEURO: bilateral hand tremors

 
Pertinent Results:
ADMISSION LABS
___ 05:12AM   ___ PO2-97 PCO2-44 PH-7.32* TOTAL CO2-24 
BASE XS--3
___ 04:56AM   GLUCOSE-87 UREA N-9 CREAT-0.6 SODIUM-145 
POTASSIUM-4.2 CHLORIDE-109* TOTAL CO2-21* ANION GAP-15
___ 04:56AM   ALT(SGPT)-129* AST(SGOT)-243* ALK PHOS-92 TOT 
BILI-0.9
___ 04:56AM   CALCIUM-7.2* PHOSPHATE-3.8 MAGNESIUM-1.7
___ 04:56AM   WBC-5.0 RBC-3.32* HGB-11.4* HCT-33.6* 
MCV-101* MCH-34.3* MCHC-33.9 RDW-13.6 RDWSD-50.8*
___ 04:56AM   ___ PTT-28.0 ___
___ 04:56AM   PLT COUNT-141*
___ 12:43AM   PO2-79* PCO2-47* PH-7.33* TOTAL CO2-26 BASE 
XS--1
___ 12:43AM   LACTATE-2.0
___ 12:43AM   O2 SAT-89
___ 12:25AM URINE  HOURS-RANDOM
___ 12:25AM URINE  bnzodzpn-POS* barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 12:25AM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 12:25AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 12:25AM URINE  RBC-2 WBC-4 BACTERIA-FEW* YEAST-NONE 
EPI-<1
___ 12:25AM URINE  HYALINE-22*
___ 12:25AM URINE  MUCOUS-OCC*
___ 12:21AM   GLUCOSE-85 UREA N-9 CREAT-0.7 SODIUM-146 
POTASSIUM-4.0 CHLORIDE-108 TOTAL CO2-23 ANION GAP-15
___ 12:21AM   estGFR-Using this
___ 12:21AM   cTropnT-<0.01
___ 12:21AM   CALCIUM-7.9* PHOSPHATE-4.6* MAGNESIUM-1.9
___ 12:21AM   ASA-NEG ___ ACETMNPHN-NEG 
tricyclic-NEG
___ 12:21AM   WBC-3.6* RBC-3.61* HGB-12.4* HCT-35.8* 
MCV-99* MCH-34.3* MCHC-34.6 RDW-13.3 RDWSD-48.5*
___ 12:21AM   NEUTS-43.7 ___ MONOS-8.2 EOS-1.1 
BASOS-0.5 IM ___ AbsNeut-1.59* AbsLymp-1.68 AbsMono-0.30 
AbsEos-0.04 AbsBaso-0.02
___ 12:21AM   ___ PTT-28.0 ___
___ 12:21AM   PLT COUNT-155

IMAGING 

CXR 
IMPRESSION:  
  
1.  Endotracheal tube terminates approximately 5.3 cm above the 
carina.  The 
enteric tube terminates in the stomach with the side hole at the 
GE junction. 
2.  No acute cardiopulmonary process. 

 
Brief Hospital Course:
Mr. ___ is a ___ year-old male with unknown past medical 
history who initially presented to ___ after being found 
intoxicated in the back of a car, subsequently intubated for
airway protection, now improved. 

ACUTE ISSUES
===========
# Acute EtOH intoxication/EtOH abuse disorder 
# Respiratory acidosis/respiratory failure - RESOLVED 
# Alcoholic Hepatitis
Found acutely intoxicated and intubated for airway protection, 
extubated day 1 of ICU admission. Trauma work-up negative. 
Admits that his withdrawal symptoms in the past have been 
tremors and sweating, never hallucinations. He admits that he 
wants to stop but at this time does not want to go to rehab or 
feels like he needs additional resources. He was informed about 
his alcoholic hepatitis and the other dangers of alcohol abuse. 
His thrombocytopenia is likely secondary to etohtoxicity. He 
received one dose of Ativan per CIWA protocol prior to 
discharge. He was discharged while still withdrawing from 
alcohol, however he was reportedly going to continue to drinking 
and was not interested in staying to detox. Social work was 
consulted and offered the patient resources. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 capsule(s) by mouth DAILY Disp 
#*30 Capsule Refills:*0 
3.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth DAILY 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute alcohol intoxication

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the ICU because you were very intoxicated 
from alcohol. You needed to be intubated to help you breath. You 
improved once you had time to clear the alcohol from your 
system. We offered your resources to help with your withdrawl 
and stopping your alcohol use. 

You were found to have abnormal liver tests consistent with 
damage from alcohol. 

It is very important that you follow up with your PCP and take 
your new medications. 

We strongly recommended that you cut down on your alcohol use as 
it is very bad for your health and there is already evidence 
that your liver is damaged from your drinking. However, it is 
not safe to stop drinking alcohol completely ("cold ___ at 
least right away).  Please talk to your PCP about methods to 
health cut down on alcohol use. 

Sincerely,

Your ___ Team
 
Followup Instructions:
___